US04393217
As for Example 1, 2-cyano-2'-isopropylacetanilide, off-white crystals, m.p. 74°-78° C. (prepared by the procedure described in U.S. Pat. No. 3,116,312), is heated with N,N-dimethylacetamide dimethylacetal to yield 2-cyano-3-dimethylamino-2'-isopropylcrotonanilide as colorless prisms, m.p. 119°-121° C.

reactant | 2-cyano-2'-isopropylacetanilide | C(#N)CC(=O)NC1=C(C=CC=C1)C(C)C | C12H14N2O
reactant | N,N-dimethylacetamide dimethylacetal | COC(C)(N(C)C)OC | C6H15NO2
product | 2-cyano-3-dimethylamino-2'-isopropylcrotonanilide | C(#N)/C(/C(=O)NC1=C(C=CC=C1)C(C)C)=C(\C)/N(C)C | C16H21N3O
